US07745665B2
Methyl 3-methoxymethoxy-benzoate:
At about 0° C., diisopropylethylamine (1.7 g, 13.1 mmol) and methoxymethyl chloride (635 mg, 7.9 mmol) were sequentially added to a solution of methyl 3-hydroxybenzoate (1 g, 6.6 mmol) in dry dichloromethane (10 mL). The resulting mixture was maintained at ambient temperature for about 3 hours. Following standard extractive workup, the crude product was purified by flash column chromatography on silica gel (2×16 cm, petroleum ether/ethyl acetate=10/1 elution) to give the title product (1.03 g, 80%). 1H NMR (300 MHz, CDCl3) δ 7.71-7.69 (m, 2H), 7.36 (dd, 1H, J=7.8, 1.8 Hz), 7.25 (dd, 1H, J=7.8, 1.8 Hz), 5.22 (s, 2H), 3.92 (s, 3H), 3.50 (s, 3H); LC-MS: m/z=197 (MH)+.

reactant | diisopropylethylamine | 13.1 mmol, 1.7 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methoxymethyl chloride | 7.9 mmol, 635 mg | COCCl | C2H5ClO
reactant | methyl 3-hydroxybenzoate | 6.6 mmol, 1 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl 3-methoxymethoxy-benzoate | 1.03 g, 80% | COCOC=1C=C(C(=O)OC)C=CC1 | C10H12O4
